*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.003/0.003


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_4666_4666
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 36.4534
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 36.4534
cd_0_0_0_0 nd_1_0_666_666_ci 0 5.48646e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 7901.93
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 7901.93
cd_0_0_0_1 nd_1_0_2000_666_ci 0 2.53103e-13
rdload_0_0_0_2 nd_1_0_3333_666 0 58.5108
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 58.5108
cd_0_0_0_2 nd_1_0_3333_666_ci 0 3.41817e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 51.7634
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 51.7634
cd_0_0_0_3 nd_1_0_4666_666_ci 0 3.86374e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 146.566
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 146.566
cd_0_0_0_4 nd_1_0_6000_666_ci 0 1.36458e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 35.759
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 35.759
cd_0_0_0_5 nd_1_0_7333_666_ci 0 5.59299e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 65.5056
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 65.5056
cd_0_0_0_6 nd_1_0_8666_666_ci 0 3.05317e-11
rdload_0_0_0_7 nd_1_0_666_2000 0 356.753
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 356.753
cd_0_0_0_7 nd_1_0_666_2000_ci 0 5.60611e-12
rdload_0_0_0_8 nd_1_0_2000_2000 0 198.465
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 198.465
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 1.00773e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 141.814
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 141.814
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 1.4103e-11
rdload_0_0_0_10 nd_1_0_4666_2000 0 73.1083
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 73.1083
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 2.73567e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 63.0669
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 63.0669
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 3.17124e-11
rdload_0_0_0_12 nd_1_0_7333_2000 0 55.3077
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 55.3077
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 3.61613e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 174.851
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 174.851
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 1.14383e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 127.767
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 127.767
cd_0_0_0_14 nd_1_0_666_3333_ci 0 1.56535e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 70.9209
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 70.9209
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 2.82004e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 622.769
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 622.769
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 3.21146e-12
rdload_0_0_0_17 nd_1_0_4666_3333 0 267.031
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 267.031
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 7.48977e-12
rdload_0_0_0_18 nd_1_0_6000_3333 0 165.114
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 165.114
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 1.21128e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 119.551
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 119.551
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 1.67292e-11
rdload_0_0_0_20 nd_1_0_8666_3333 0 67.8014
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 67.8014
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 2.94979e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 59.2819
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 59.2819
cd_0_0_0_21 nd_1_0_666_4666_ci 0 3.37371e-11
rdload_0_0_0_22 nd_1_0_2000_4666 0 229.54
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 229.54
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 8.71309e-12
rdload_0_0_0_23 nd_1_0_3333_4666 0 46.823
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 46.823
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 4.27141e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 112.395
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 112.395
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 1.77944e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 2408.02
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 2408.02
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 8.30557e-13
rdload_0_0_0_26 nd_1_0_7333_4666 0 57.6493
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 57.6493
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 3.46925e-11
rdload_0_0_0_27 nd_1_0_8666_4666 0 51.0491
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 51.0491
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 3.9178e-11
rdload_0_0_0_28 nd_1_0_666_6000 0 45.7503
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 45.7503
cd_0_0_0_28 nd_1_0_666_6000_ci 0 4.37155e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 107.061
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 107.061
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 1.86809e-11
rdload_0_0_0_30 nd_1_0_3333_6000 0 63.7473
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 63.7473
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 3.13739e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 329.961
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 329.961
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 6.06132e-12
rdload_0_0_0_32 nd_1_0_6000_6000 0 49.7379
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 49.7379
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 4.02108e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 132.531
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 132.531
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 1.50908e-11
rdload_0_0_0_34 nd_1_0_8666_6000 0 101.787
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 101.787
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 1.9649e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 37.3635
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 37.3635
cd_0_0_0_35 nd_1_0_666_7333_ci 0 5.35282e-11
rdload_0_0_0_36 nd_1_0_2000_7333 0 54.1339
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 54.1339
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 3.69454e-11
rdload_0_0_0_37 nd_1_0_3333_7333 0 48.5554
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 48.5554
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 4.11901e-11
rdload_0_0_0_38 nd_1_0_4666_7333 0 43.8808
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 43.8808
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 4.55781e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 96.6357
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 96.6357
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 2.06963e-11
rdload_0_0_0_40 nd_1_0_7333_7333 0 36.6521
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 36.6521
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 5.45671e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 234.295
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 234.295
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 8.53624e-12
rdload_0_0_0_42 nd_1_0_666_8666 0 47.1976
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 47.1976
cd_0_0_0_42 nd_1_0_666_8666_ci 0 4.2375e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 115.138
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 115.138
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 1.73705e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 38.9415
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 38.9415
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 5.13591e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 35.8025
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 35.8025
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 5.5862e-11
rdload_0_0_0_46 nd_1_0_6000_8666 0 219.463
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 219.463
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 9.11317e-12
rdload_0_0_0_47 nd_1_0_7333_8666 0 46.036
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 46.036
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 4.34443e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 41.9964
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 41.9964
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 4.76231e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val163'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val164'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val165'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val166'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val167'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val168'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val169'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val170'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val171'
rd_add0 nd0 0 'esr42'
rd_add1 nd1 0 'esr43'
rd_add2 nd2 0 'esr44'
rd_add3 nd3 0 'esr45'
rd_add4 nd4 0 'esr46'
rd_add5 nd5 0 'esr47'
rd_add6 nd6 0 'esr48'
rd_add7 nd7 0 'esr49'
rd_add8 nd8 0 'esr50'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'



*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_666_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_666_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_666_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_666_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_666_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_2000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_2000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3333_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3333_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3333_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3333_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3333_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3333_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3333_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3333_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3333_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3333_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4666_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4666_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4666_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4666_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4666_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_6000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_6000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7333_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7333_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7333_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7333_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7333_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8666_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8666_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8666_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8666_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8666_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_8666_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_8666_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_8666_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_8666_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_8666_8666  0.001

.ends chiplet4
